** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K05c: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.493498n 1.8
+ 4.493498n 0 5.486996n 0 6.486996n 1.8 7.479382n 1.8
+ 8.479382n 0 9.471768n 0 10.471768n 1.8 11.473771n 1.8
+ 12.473771n 0 13.475775n 0 14.475775n 1.8 15.482743n 1.8
+ 16.482743n 0 17.489711n 0 18.489711n 1.8 19.489045n 1.8
+ 20.489045n 0 21.488378n 0 22.488378n 1.8 23.493612n 1.8
+ 24.493612n 0 25.498847n 0 26.498847n 1.8 27.481746n 1.8
+ 28.481746n 0 29.464644n 0 30.464644n 1.8 31.460526n 1.8
+ 32.460526n 0 33.456408n 0 34.456408n 1.8 35.448234n 1.8
+ 36.448234n 0 37.440060n 0 38.440060n 1.8 39.440361n 1.8
+ 40.440361n 0 41.440663n 0 42.440663n 1.8 43.461669n 1.8
+ 44.461669n 0 45.482676n 0 46.482676n 1.8 47.470135n 1.8
+ 48.470135n 0 49.457594n 0 50.457594n 1.8 51.454738n 1.8
+ 52.454738n 0 53.451883n 0 54.451883n 1.8 55.443416n 1.8
+ 56.443416n 0 57.434949n 0 58.434949n 1.8 59.425735n 1.8
+ 60.425735n 0 61.416522n 0 62.416522n 1.8 63.411233n 1.8
+ 64.411233n 0 65.405944n 0 66.405944n 1.8 67.399275n 1.8
+ 68.399275n 0 69.392606n 0 70.392606n 1.8 71.409384n 1.8
+ 72.409384n 0 73.426162n 0 74.426162n 1.8 75.423887n 1.8
+ 76.423887n 0 77.421612n 0 78.421612n 1.8 79.417868n 1.8
+ 80.417868n 0 81.414123n 0 82.414123n 1.8 83.425443n 1.8
+ 84.425443n 0 85.436762n 0 86.436762n 1.8 87.428899n 1.8
+ 88.428899n 0 89.421036n 0 90.421036n 1.8 91.420183n 1.8
+ 92.420183n 0 93.419330n 0 94.419330n 1.8 95.406705n 1.8
+ 96.406705n 0 97.394081n 0 98.394081n 1.8 99.407644n 1.8
+ 100.407644n 0 101.421208n 0 102.421208n 1.8 103.430550n 1.8
+ 104.430550n 0 105.439891n 0 106.439891n 1.8 107.457874n 1.8
+ 108.457874n 0 109.475858n 0 110.475858n 1.8 111.469682n 1.8
+ 112.469682n 0 113.463505n 0 114.463505n 1.8 115.463177n 1.8
+ 116.463177n 0 117.462848n 0 118.462848n 1.8 119.433821n 1.8
+ 120.433821n 0 121.404794n 0 122.404794n 1.8 123.402514n 1.8
+ 124.402514n 0 125.400233n 0 126.400233n 1.8 127.399136n 1.8
+ 128.399136n 0 129.398039n 0 130.398039n 1.8 131.374326n 1.8
+ 132.374326n 0 133.350614n 0 134.350614n 1.8 135.360437n 1.8
+ 136.360437n 0 137.370260n 0 138.370260n 1.8 139.351339n 1.8
+ 140.351339n 0 141.332418n 0 142.332418n 1.8 143.317030n 1.8
+ 144.317030n 0 145.301642n 0 146.301642n 1.8 147.274241n 1.8
+ 148.274241n 0 149.246839n 0 150.246839n 1.8 151.239350n 1.8
+ 152.239350n 0 153.231862n 0 154.231862n 1.8 155.222749n 1.8
+ 156.222749n 0 157.213635n 0 158.213635n 1.8 159.215101n 1.8
+ 160.215101n 0 161.216567n 0 162.216567n 1.8 163.205709n 1.8
+ 164.205709n 0 165.194851n 0 166.194851n 1.8 167.188890n 1.8
+ 168.188890n 0 169.182928n 0 170.182928n 1.8 171.171539n 1.8
+ 172.171539n 0 173.160149n 0 174.160149n 1.8 175.154637n 1.8
+ 176.154637n 0 177.149125n 0 178.149125n 1.8 179.140204n 1.8
+ 180.140204n 0 181.131283n 0 182.131283n 1.8 183.124430n 1.8
+ 184.124430n 0 185.117578n 0 186.117578n 1.8 187.098225n 1.8
+ 188.098225n 0 189.078872n 0 190.078872n 1.8 191.075311n 1.8
+ 192.075311n 0 193.071749n 0 194.071749n 1.8 195.066388n 1.8
+ 196.066388n 0 197.061027n 0 198.061027n 1.8 199.035061n 1.8
+ 200.035061n 0 201.009094n 0 202.009094n 1.8 203.000215n 1.8
+ 204.000215n 0 204.991335n 0 205.991335n 1.8 206.974766n 1.8
+ 207.974766n 0 208.958197n 0 209.958197n 1.8 210.958054n 1.8
+ 211.958054n 0 212.957911n 0 213.957911n 1.8 214.963894n 1.8
+ 215.963894n 0 216.969878n 0 217.969878n 1.8 218.962957n 1.8
+ 219.962957n 0 220.956035n 0 221.956035n 1.8 222.952998n 1.8
+ 223.952998n 0 224.949961n 0 225.949961n 1.8 226.948460n 1.8
+ 227.948460n 0 228.946959n 0 229.946959n 1.8 230.923590n 1.8
+ 231.923590n 0 232.900222n 0 233.900222n 1.8 234.897086n 1.8
+ 235.897086n 0 236.893950n 0 237.893950n 1.8 238.865187n 1.8
+ 239.865187n 0 240.836423n 0 241.836423n 1.8 242.846250n 1.8
+ 243.846250n 0 244.856077n 0 245.856077n 1.8 246.847898n 1.8
+ 247.847898n 0 248.839720n 0 249.839720n 1.8 250.815792n 1.8
+ 251.815792n 0 252.791864n 0 253.791864n 1.8 254.770521n 1.8
+ 255.770521n 0 256.749178n 0 257.749178n 1.8 258.757904n 1.8
+ 259.757904n 0 260.766630n 0 261.766630n 1.8 262.754386n 1.8
+ 263.754386n 0 264.742142n 0 265.742142n 1.8 266.753983n 1.8
+ 267.753983n 0 268.765823n 0 269.765823n 1.8 270.767002n 1.8
+ 271.767002n 0 272.768181n 0 273.768181n 1.8 274.747435n 1.8
+ 275.747435n 0 276.726689n 0 277.726689n 1.8 278.726747n 1.8
+ 279.726747n 0 280.726806n 0 281.726806n 1.8 282.724901n 1.8
+ 283.724901n 0 284.722996n 0 285.722996n 1.8 286.724624n 1.8
+ 287.724624n 0 288.726251n 0 289.726251n 1.8 290.712965n 1.8
+ 291.712965n 0 292.699680n 0 293.699680n 1.8 294.685468n 1.8
+ 295.685468n 0 296.671257n 0 297.671257n 1.8 298.673649n 1.8
+ 299.673649n 0 300.676042n 0 301.676042n 1.8 302.674289n 1.8
+ 303.674289n 0 304.672536n 0 305.672536n 1.8 306.680244n 1.8
+ 307.680244n 0 308.687953n 0 309.687953n 1.8 310.701314n 1.8
+ 311.701314n 0 312.714674n 0 313.714674n 1.8 314.725379n 1.8
+ 315.725379n 0 316.736083n 0 317.736083n 1.8 318.738464n 1.8
+ 319.738464n 0 320.740844n 0 321.740844n 1.8 322.737699n 1.8
+ 323.737699n 0 324.734553n 0 325.734553n 1.8 326.749139n 1.8
+ 327.749139n 0 328.763724n 0 329.763724n 1.8 330.755095n 1.8
+ 331.755095n 0 332.746466n 0 333.746466n 1.8 334.754477n 1.8
+ 335.754477n 0 336.762487n 0 337.762487n 1.8 338.764657n 1.8
+ 339.764657n 0 340.766826n 0 341.766826n 1.8 342.769420n 1.8
+ 343.769420n 0 344.772013n 0 345.772013n 1.8 346.783778n 1.8
+ 347.783778n 0 348.795543n 0 349.795543n 1.8 350.797945n 1.8
+ 351.797945n 0 352.800348n 0 353.800348n 1.8 354.806738n 1.8
+ 355.806738n 0 356.813128n 0 357.813128n 1.8 358.811622n 1.8
+ 359.811622n 0 360.810116n 0 361.810116n 1.8 362.789782n 1.8
+ 363.789782n 0 364.769449n 0 365.769449n 1.8 366.768973n 1.8
+ 367.768973n 0 368.768498n 0 369.768498n 1.8 370.771226n 1.8
+ 371.771226n 0 372.773954n 0 373.773954n 1.8 374.765363n 1.8
+ 375.765363n 0 376.756773n 0 377.756773n 1.8 378.734292n 1.8
+ 379.734292n 0 380.711811n 0 381.711811n 1.8 382.707783n 1.8
+ 383.707783n 0 384.703755n 0 385.703755n 1.8 386.706569n 1.8
+ 387.706569n 0 388.709382n 0 389.709382n 1.8 390.703452n 1.8
+ 391.703452n 0 392.697522n 0 393.697522n 1.8 394.686362n 1.8
+ 395.686362n 0 396.675202n 0 397.675202n 1.8 398.670503n 1.8
+ 399.670503n 0 400.665804n 0 401.665804n 1.8 402.665182n 1.8
+ 403.665182n 0 404.664559n 0 405.664559n 1.8 406.656918n 1.8
+ 407.656918n 0 408.649276n 0 409.649276n 1.8 410.650284n 1.8
+ 411.650284n 0 412.651293n 0 413.651293n 1.8 414.644443n 1.8
+ 415.644443n 0 416.637594n 0 417.637594n 1.8 418.621847n 1.8
+ 419.621847n 0 420.606100n 0 421.606100n 1.8 422.616903n 1.8
+ 423.616903n 0 424.627705n 0 425.627705n 1.8 426.621903n 1.8
+ 427.621903n 0 428.616101n 0 429.616101n 1.8 430.634629n 1.8
+ 431.634629n 0 432.653158n 0 433.653158n 1.8 434.660667n 1.8
+ 435.660667n 0 436.668175n 0 437.668175n 1.8 438.658801n 1.8
+ 439.658801n 0 440.649427n 0 441.649427n 1.8 442.655052n 1.8
+ 443.655052n 0 444.660676n 0 445.660676n 1.8 446.663497n 1.8
+ 447.663497n 0 448.666318n 0 449.666318n 1.8 450.679914n 1.8
+ 451.679914n 0 452.693510n 0 453.693510n 1.8 454.697777n 1.8
+ 455.697777n 0 456.702044n 0 457.702044n 1.8 458.703777n 1.8
+ 459.703777n 0 460.705509n 0 461.705509n 1.8 462.703525n 1.8
+ 463.703525n 0 464.701540n 0 465.701540n 1.8 466.706298n 1.8
+ 467.706298n 0 468.711055n 0 469.711055n 1.8 470.714091n 1.8
+ 471.714091n 0 472.717126n 0 473.717126n 1.8 474.707856n 1.8
+ 475.707856n 0 476.698586n 0 477.698586n 1.8 478.689687n 1.8
+ 479.689687n 0 480.680788n 0 481.680788n 1.8 482.691419n 1.8
+ 483.691419n 0 484.702049n 0 485.702049n 1.8 486.684703n 1.8
+ 487.684703n 0 488.667357n 0 489.667357n 1.8 490.654592n 1.8
+ 491.654592n 0 492.641827n 0 493.641827n 1.8 494.645660n 1.8
+ 495.645660n 0 496.649493n 0 497.649493n 1.8 498.638555n 1.8
+ 499.638555n 0 500.627617n 0 501.627617n 1.8 502.623288n 1.8
+ 503.623288n 0 504.618958n 0 505.618958n 1.8 506.598435n 1.8
+ 507.598435n 0 508.577912n 0 509.577912n 1.8 510.576293n 1.8
+ 511.576293n 0 512.574673n 0 513.574673n 1.8 514.574427n 1.8
+ 515.574427n 0 516.574181n 0 517.574181n 1.8 518.550667n 1.8
+ 519.550667n 0 520.527153n 0 521.527153n 1.8 522.522636n 1.8
+ 523.522636n 0 524.518119n 0 525.518119n 1.8 526.522320n 1.8
+ 527.522320n 0 528.526522n 0 529.526522n 1.8 530.527614n 1.8
+ 531.527614n 0 532.528706n 0 533.528706n 1.8 534.536243n 1.8
+ 535.536243n 0 536.543781n 0 537.543781n 1.8 538.527929n 1.8
+ 539.527929n 0 540.512077n 0 541.512077n 1.8 542.511774n 1.8
+ 543.511774n 0 544.511470n 0 545.511470n 1.8 546.520772n 1.8
+ 547.520772n 0 548.530073n 0 549.530073n 1.8 550.516203n 1.8
+ 551.516203n 0 552.502334n 0 553.502334n 1.8 554.501685n 1.8
+ 555.501685n 0 556.501036n 0 557.501036n 1.8 558.509757n 1.8
+ 559.509757n 0 560.518478n 0 561.518478n 1.8 562.518869n 1.8
+ 563.518869n 0 564.519260n 0 565.519260n 1.8 566.520967n 1.8
+ 567.520967n 0 568.522674n 0 569.522674n 1.8 570.519851n 1.8
+ 571.519851n 0 572.517028n 0 573.517028n 1.8 574.527508n 1.8
+ 575.527508n 0 576.537989n 0 577.537989n 1.8 578.531746n 1.8
+ 579.531746n 0 580.525502n 0 581.525502n 1.8 582.528118n 1.8
+ 583.528118n 0 584.530734n 0 585.530734n 1.8 586.513886n 1.8
+ 587.513886n 0 588.497037n 0 589.497037n 1.8 590.495442n 1.8
+ 591.495442n 0 592.493847n 0 593.493847n 1.8 594.498646n 1.8
+ 595.498646n 0 596.503445n 0 597.503445n 1.8 598.507725n 1.8
+ 599.507725n 0 600.512005n 0 601.512005n 1.8 602.511821n 1.8
+ 603.511821n 0 604.511638n 0 605.511638n 1.8 606.511974n 1.8
+ 607.511974n 0 608.512310n 0 609.512310n 1.8 610.514307n 1.8
+ 611.514307n 0 612.516303n 0 613.516303n 1.8 614.536753n 1.8
+ 615.536753n 0 616.557202n 0 617.557202n 1.8 618.554937n 1.8
+ 619.554937n 0 620.552672n 0 621.552672n 1.8 622.555414n 1.8
+ 623.555414n 0 624.558155n 0 625.558155n 1.8 626.555477n 1.8
+ 627.555477n 0 628.552799n 0 629.552799n 1.8 630.553264n 1.8
+ 631.553264n 0 632.553729n 0 633.553729n 1.8 634.550333n 1.8
+ 635.550333n 0 636.546937n 0 637.546937n 1.8 638.549543n 1.8
+ 639.549543n 0 640.552150n 0 641.552150n 1.8 642.548009n 1.8
+ 643.548009n 0 644.543868n 0 645.543868n 1.8 646.543003n 1.8
+ 647.543003n 0 648.542137n 0 649.542137n 1.8 650.538433n 1.8
+ 651.538433n 0 652.534728n 0 653.534728n 1.8 654.533122n 1.8
+ 655.533122n 0 656.531517n 0 657.531517n 1.8 658.529248n 1.8
+ 659.529248n 0 660.526978n 0 661.526978n 1.8 662.529969n 1.8
+ 663.529969n 0 664.532959n 0 665.532959n 1.8 666.527432n 1.8
+ 667.527432n 0 668.521905n 0 669.521905n 1.8 670.518172n 1.8
+ 671.518172n 0 672.514439n 0 673.514439n 1.8 674.504960n 1.8
+ 675.504960n 0 676.495480n 0 677.495480n 1.8 678.485806n 1.8
+ 679.485806n 0 680.476132n 0 681.476132n 1.8 682.502750n 1.8
+ 683.502750n 0 684.529368n 0 685.529368n 1.8 686.527252n 1.8
+ 687.527252n 0 688.525136n 0 689.525136n 1.8 690.517471n 1.8
+ 691.517471n 0 692.509806n 0 693.509806n 1.8 694.505958n 1.8
+ 695.505958n 0 696.502110n 0 697.502110n 1.8 698.498394n 1.8
+ 699.498394n 0 700.494679n 0 701.494679n 1.8 702.500597n 1.8
+ 703.500597n 0 704.506514n 0 705.506514n 1.8 706.508105n 1.8
+ 707.508105n 0 708.509695n 0 709.509695n 1.8 710.514410n 1.8
+ 711.514410n 0 712.519125n 0 713.519125n 1.8 714.512662n 1.8
+ 715.512662n 0 716.506200n 0 717.506200n 1.8 718.491549n 1.8
+ 719.491549n 0 720.476898n 0 721.476898n 1.8 722.482712n 1.8
+ 723.482712n 0 724.488527n 0 725.488527n 1.8 726.480815n 1.8
+ 727.480815n 0 728.473102n 0 729.473102n 1.8 730.467559n 1.8
+ 731.467559n 0 732.462017n 0 733.462017n 1.8 734.440981n 1.8
+ 735.440981n 0 736.419946n 0 737.419946n 1.8 738.411245n 1.8
+ 739.411245n 0 740.402545n 0 741.402545n 1.8 742.404129n 1.8
+ 743.404129n 0 744.405713n 0 745.405713n 1.8 746.401038n 1.8
+ 747.401038n 0 748.396364n 0 749.396364n 1.8 750.405025n 1.8
+ 751.405025n 0 752.413686n 0 753.413686n 1.8 754.408231n 1.8
+ 755.408231n 0 756.402776n 0 757.402776n 1.8 758.386862n 1.8
+ 759.386862n 0 760.370948n 0 761.370948n 1.8 762.372330n 1.8
+ 763.372330n 0 764.373712n 0 765.373712n 1.8 766.372275n 1.8
+ 767.372275n 0 768.370839n 0 769.370839n 1.8 770.379248n 1.8
+ 771.379248n 0 772.387657n 0 773.387657n 1.8 774.403334n 1.8
+ 775.403334n 0 776.419012n 0 777.419012n 1.8 778.426794n 1.8
+ 779.426794n 0 780.434576n 0 781.434576n 1.8 782.436371n 1.8
+ 783.436371n 0 784.438166n 0 785.438166n 1.8 786.442325n 1.8
+ 787.442325n 0 788.446483n 0 789.446483n 1.8 790.452944n 1.8
+ 791.452944n 0 792.459404n 0 793.459404n 1.8 794.456133n 1.8
+ 795.456133n 0 796.452861n 0 797.452861n 1.8 798.450678n 1.8
+ 799.450678n 0 800.448496n 0 801.448496n 1.8 802.427206n 1.8
+ 803.427206n 0 804.405916n 0 805.405916n 1.8 806.432739n 1.8
+ 807.432739n 0 808.459562n 0 809.459562n 1.8 810.468409n 1.8
+ 811.468409n 0 812.477256n 0 813.477256n 1.8 814.468079n 1.8
+ 815.468079n 0 816.458902n 0 817.458902n 1.8 818.458459n 1.8
+ 819.458459n 0 820.458016n 0 821.458016n 1.8 822.459995n 1.8
+ 823.459995n 0 824.461975n 0 825.461975n 1.8 826.458886n 1.8
+ 827.458886n 0 828.455797n 0 829.455797n 1.8 830.455331n 1.8
+ 831.455331n 0 832.454866n 0 833.454866n 1.8 834.468816n 1.8
+ 835.468816n 0 836.482767n 0 837.482767n 1.8 838.477613n 1.8
+ 839.477613n 0 840.472459n 0 841.472459n 1.8 842.470994n 1.8
+ 843.470994n 0 844.469528n 0 845.469528n 1.8 846.465035n 1.8
+ 847.465035n 0 848.460542n 0 849.460542n 1.8 850.479794n 1.8
+ 851.479794n 0 852.499046n 0 853.499046n 1.8 854.491294n 1.8
+ 855.491294n 0 856.483542n 0 857.483542n 1.8 858.486088n 1.8
+ 859.486088n 0 860.488633n 0 861.488633n 1.8 862.494235n 1.8
+ 863.494235n 0 864.499837n 0 865.499837n 1.8 866.490402n 1.8
+ 867.490402n 0 868.480966n 0 869.480966n 1.8 870.483622n 1.8
+ 871.483622n 0 872.486277n 0 873.486277n 1.8 874.488336n 1.8
+ 875.488336n 0 876.490395n 0 877.490395n 1.8 878.502157n 1.8
+ 879.502157n 0 880.513918n 0 881.513918n 1.8 882.506632n 1.8
+ 883.506632n 0 884.499346n 0 885.499346n 1.8 886.474170n 1.8
+ 887.474170n 0 888.448994n 0 889.448994n 1.8 890.434569n 1.8
+ 891.434569n 0 892.420144n 0 893.420144n 1.8 894.428994n 1.8
+ 895.428994n 0 896.437843n 0 897.437843n 1.8 898.424493n 1.8
+ 899.424493n 0 900.411143n 0 901.411143n 1.8 902.412335n 1.8
+ 903.412335n 0 904.413527n 0 905.413527n 1.8 906.411703n 1.8
+ 907.411703n 0 908.409880n 0 909.409880n 1.8 910.404860n 1.8
+ 911.404860n 0 912.399839n 0 913.399839n 1.8 914.395876n 1.8
+ 915.395876n 0 916.391913n 0 917.391913n 1.8 918.400805n 1.8
+ 919.400805n 0 920.409697n 0 921.409697n 1.8 922.411459n 1.8
+ 923.411459n 0 924.413221n 0 925.413221n 1.8 926.415734n 1.8
+ 927.415734n 0 928.418248n 0 929.418248n 1.8 930.406515n 1.8
+ 931.406515n 0 932.394783n 0 933.394783n 1.8 934.401337n 1.8
+ 935.401337n 0 936.407892n 0 937.407892n 1.8 938.405709n 1.8
+ 939.405709n 0 940.403526n 0 941.403526n 1.8 942.384342n 1.8
+ 943.384342n 0 944.365159n 0 945.365159n 1.8 946.375537n 1.8
+ 947.375537n 0 948.385915n 0 949.385915n 1.8 950.389181n 1.8
+ 951.389181n 0 952.392447n 0 953.392447n 1.8 954.370445n 1.8
+ 955.370445n 0 956.348443n 0 957.348443n 1.8 958.349605n 1.8
+ 959.349605n 0 960.350767n 0 961.350767n 1.8 962.330486n 1.8
+ 963.330486n 0 964.310204n 0 965.310204n 1.8 966.306107n 1.8
+ 967.306107n 0 968.302009n 0 969.302009n 1.8 970.288628n 1.8
+ 971.288628n 0 972.275246n 0 973.275246n 1.8 974.285924n 1.8
+ 975.285924n 0 976.296603n 0 977.296603n 1.8 978.295421n 1.8
+ 979.295421n 0 980.294240n 0 981.294240n 1.8 982.288968n 1.8
+ 983.288968n 0 984.283696n 0 985.283696n 1.8 986.291485n 1.8
+ 987.291485n 0 988.299274n 0 989.299274n 1.8 990.303888n 1.8
+ 991.303888n 0 992.308503n 0 993.308503n 1.8 994.315470n 1.8
+ 995.315470n 0 996.322438n 0 997.322438n 1.8 998.349498n 1.8
+ 999.349498n 0 1000.376559n 0 1001.376559n 1.8 1002.358064n 1.8
+ 1003.358064n 0 1004.339569n 0 1005.339569n 1.8 1006.329494n 1.8
+ 1007.329494n 0 1008.319418n 0 1009.319418n 1.8 1010.313228n 1.8
+ 1011.313228n 0 1012.307038n 0 1013.307038n 1.8 1014.316556n 1.8
+ 1015.316556n 0 1016.326074n 0 1017.326074n 1.8 1018.317877n 1.8
+ 1019.317877n 0 1020.309681n 0 1021.309681n 1.8 1022.308318n 1.8
+ 1023.308318n 0 1024.306955n 0 1025.306955n 1.8 1026.298285n 1.8
+ 1027.298285n 0 1028.289614n 0 1029.289614n 1.8 1030.294939n 1.8
+ 1031.294939n 0 1032.300264n 0 1033.300264n 1.8 1034.291556n 1.8
+ 1035.291556n 0 1036.282848n 0 1037.282848n 1.8 1038.287515n 1.8
+ 1039.287515n 0 1040.292183n 0 1041.292183n 1.8 1042.284967n 1.8
+ 1043.284967n 0 1044.277752n 0 1045.277752n 1.8 1046.274504n 1.8
+ 1047.274504n 0 1048.271256n 0 1049.271256n 1.8 1050.263849n 1.8
+ 1051.263849n 0 1052.256442n 0 1053.256442n 1.8 1054.252892n 1.8
+ 1055.252892n 0 1056.249343n 0 1057.249343n 1.8 1058.251383n 1.8
+ 1059.251383n 0 1060.253424n 0 1061.253424n 1.8 1062.248429n 1.8
+ 1063.248429n 0 1064.243434n 0 1065.243434n 1.8 1066.236107n 1.8
+ 1067.236107n 0 1068.228781n 0 1069.228781n 1.8 1070.210207n 1.8
+ 1071.210207n 0 1072.191634n 0 1073.191634n 1.8 1074.209156n 1.8
+ 1075.209156n 0 1076.226679n 0 1077.226679n 1.8 1078.216188n 1.8
+ 1079.216188n 0 1080.205698n 0 1081.205698n 1.8 1082.190696n 1.8
+ 1083.190696n 0 1084.175693n 0 1085.175693n 1.8 1086.182653n 1.8
+ 1087.182653n 0 1088.189613n 0 1089.189613n 1.8 1090.194989n 1.8
+ 1091.194989n 0 1092.200365n 0 1093.200365n 1.8 1094.193908n 1.8
+ 1095.193908n 0 1096.187451n 0 1097.187451n 1.8 1098.185895n 1.8
+ 1099.185895n 0 1100.184340n 0 1101.184340n 1.8 1102.184520n 1.8
+ 1103.184520n 0 1104.184701n 0 1105.184701n 1.8 1106.174375n 1.8
+ 1107.174375n 0 1108.164049n 0 1109.164049n 1.8 1110.160369n 1.8
+ 1111.160369n 0 1112.156688n 0 1113.156688n 1.8 1114.156147n 1.8
+ 1115.156147n 0 1116.155605n 0 1117.155605n 1.8 1118.153553n 1.8
+ 1119.153553n 0 1120.151500n 0 1121.151500n 1.8 1122.144597n 1.8
+ 1123.144597n 0 1124.137694n 0 1125.137694n 1.8 1126.134444n 1.8
+ 1127.134444n 0 1128.131194n 0 1129.131194n 1.8 1130.149982n 1.8
+ 1131.149982n 0 1132.168769n 0 1133.168769n 1.8 1134.171851n 1.8
+ 1135.171851n 0 1136.174932n 0 1137.174932n 1.8 1138.177417n 1.8
+ 1139.177417n 0 1140.179902n 0 1141.179902n 1.8 1142.167261n 1.8
+ 1143.167261n 0 1144.154620n 0 1145.154620n 1.8 1146.148985n 1.8
+ 1147.148985n 0 1148.143351n 0 1149.143351n 1.8 1150.131414n 1.8
+ 1151.131414n 0 1152.119478n 0 1153.119478n 1.8 1154.124061n 1.8
+ 1155.124061n 0 1156.128644n 0 1157.128644n 1.8 1158.136998n 1.8
+ 1159.136998n 0 1160.145353n 0 1161.145353n 1.8 1162.135436n 1.8
+ 1163.135436n 0 1164.125519n 0 1165.125519n 1.8 1166.117752n 1.8
+ 1167.117752n 0 1168.109986n 0 1169.109986n 1.8 1170.095511n 1.8
+ 1171.095511n 0 1172.081036n 0 1173.081036n 1.8 1174.081770n 1.8
+ 1175.081770n 0 1176.082503n 0 1177.082503n 1.8 1178.076167n 1.8
+ 1179.076167n 0 1180.069830n 0 1181.069830n 1.8 1182.079158n 1.8
+ 1183.079158n 0 1184.088485n 0 1185.088485n 1.8 1186.071852n 1.8
+ 1187.071852n 0 1188.055218n 0 1189.055218n 1.8 1190.045725n 1.8
+ 1191.045725n 0 1192.036232n 0 1193.036232n 1.8 1194.040491n 1.8
+ 1195.040491n 0 1196.044749n 0 1197.044749n 1.8 1198.052374n 1.8
+ 1199.052374n 0 1200.060000n 0 1201.060000n 1.8 1202.057600n 1.8
+ 1203.057600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.25u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
